US07544704B2
2-Chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine
As described for example 11c, 4-ethynyl-5-methyl-3-phenyl-isoxazole (92 mg, 0.50 mmol) was converted (using 2-chloro-6-iodopyridine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 129 mg, 87%) which was obtained as a light yellow oil. MS: m/e=295.1/297.3 [M+H]+.

reactant | 4-ethynyl-5-methyl-3-phenyl-isoxazole | 0.50 mmol, 92 mg | C(#C)C=1C(=NOC1C)C1=CC=CC=C1 | C12H9NO
reactant | 2-chloro-6-iodopyridine | ClC1=NC(=CC=C1)I | C5H3ClIN
product | 2-Chloro-6-(5-methyl-3-phenyl-isoxazol-4-ylethynyl)-pyridine | 129 mg, 87% | ClC1=NC(=CC=C1)C#CC=1C(=NOC1C)C1=CC=CC=C1 | C17H11ClN2O
